US04147780
The procedure described in Example 1C was repeated using DL-1-benzhydrylaminobenzylphosphonous acid as starting material instead of DL-1-benzhydrylamino-2-methylpropanephosphonous acid to give DL-1-aminophenylmethanephosphonous acid of melting point 239°-240° (dec.).

reactant | 1-benzhydrylaminobenzylphosphonous acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC1(CP(O)O)CC=CC=C1 | C20H22NO2P
reactant | 1-benzhydrylamino-2-methylpropanephosphonous acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(C(C)C)P(O)O | C17H22NO2P
product | 1-aminophenylmethanephosphonous acid | NC1(CC=CC=C1)CP(O)O | C7H12NO2P
